US08957089B2
98.8 N-[2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide
2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine (80 mg, 0.225 mmol) was dissolved in pyridine and propane-1-sulfonyl chloride (29 μl, 0.25 mmol) were added. The reaction mixture was stirred at room temperature over night. The solvent was evaporated in vacuo. Toluene was added to the residue and the solvent was evaporated in vacuo (repeated twice). The crude product was purified by flash chromatography (silica, dichloromethane, methanol). Yield: 36 mg (0.078 mmol, 35%).

reactant | 2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine | 0.225 mmol, 80 mg | ClC1=CC=CC(=N1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCN | C20H22ClN3O
reactant | propane-1-sulfonyl chloride | 0.25 mmol, 29 μl | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[2-({1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide | ClC1=CC=CC(=N1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCNS(=O)(=O)CCC | C23H28ClN3O3S
